US06784182B2
1-Boc-4-[(pyrid-4-ylamino)methyl]piperidine
To a stirred solution of 1-Boc-4-[(2,3,5,6-tetrachloropyrid-4-ylamino)methyl]piperidine (2.5 g, 5.83 mmol) in a mixture of methanol (23 mL) and THF (23 mL) was added sodium methoxide (1.89 g, 35 mmol) and 5% palladium on carbon (1.24 g). The mixture was hydrogenated for 30 h and the cataylst was filtered off and the solution concentrated in vacuo. The residue was taken up in ethyl acetate and washed with water and satd sodium bicarbonate. The aqueous washes were back extracted with ethyl acetate, and the combined organics dried (MgSO4) and concentrated in vacuo to give the product (1.0 g, 59%).

reactant | 1-Boc-4-[(2,3,5,6-tetrachloropyrid-4-ylamino)methyl]piperidine | 5.83 mmol, 2.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=C(C(=NC(=C1Cl)Cl)Cl)Cl | C16H21Cl4N3O2
reactant | sodium methoxide | 35 mmol, 1.89 g | C[O-].[Na+]
solvent | methanol | 23 mL | CO | CH4O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 1.24 g | [Pd] | Pd
product | 1-Boc-4-[(pyrid-4-ylamino)methyl]piperidine | 1.0 g, 59% | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=CC=NC=C1 | C16H25N3O2
